US05506235
A mixture of 9-hydroxy-1H-pyrazolo[3,4-f]quinoline (2.97 g, 16.0 mmol) and phosphorus oxychloride (24.58 g, 160 mmol) at 0° C. was treated with dimethylformamide (DMF) (15.4 ml) dropwise. After addition was complete, the viscous reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was then poured onto ice and the resulting dark brown solution was treated with decolorizing carbon and filtered, and the brown filtrate neutralized with 10M NaOH. The light brown solid which resulted was collected by filtration and air dried giving 9-chloro-1H-pyrazolo[3,4-f]quinoline (1.73 g, 53%).

reactant | 9-hydroxy-1H-pyrazolo[3,4-f]quinoline | 16.0 mmol, 2.97 g | OC1=CC=NC2=CC=C3C(=C12)NN=C3 | C10H7N3O
reactant | phosphorus oxychloride | 160 mmol, 24.58 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 15.4 ml | CN(C=O)C | C3H7NO
product | 9-chloro-1H-pyrazolo[3,4-f]quinoline | 1.73 g, 53% | ClC1=CC=NC2=CC=C3C(=C12)NN=C3 | C10H6ClN3
